US20010006975A1
A Parr hydrogenation bottle fitted with a 16×100 mm disposable glass culture tube is charged with methyl-5-t-butyl-3-nitropyrrole-2-carboxylate (14 mg, 0.062 mmol) in dry methanol (1 mL) and Pd (10% on carbon, 3 mg). The reaction is successively evacuated and purged with H2 gas three times. The reaction mixture is then shaken under an atmosphere of H2 (35 psi) for 1 h, diluted with dichloromethane and filtered through celite. The filtrate is concentrated in vacuo to give methyl 3-amino-5-t-butylpyrrole-2-carboxylate as a bright yellow oil (100%, crude yield). 1H NMR (CDCl3) d 7.89 (br s, 2H), 5.52 (d, 1H, J=2.8 Hz), 3.82 (s, 3H), 1.26 (s, 9H).

reactant | methyl-5-t-butyl-3-nitropyrrole-2-carboxylate | 0.062 mmol, 14 mg | COC(=O)C=1NC(=CC1[N+](=O)[O-])C(C)(C)C | C10H14N2O4
solvent | methanol | 1 mL | CO | CH4O
catalyst | Pd | 3 mg | [Pd] | Pd
product | methyl 3-amino-5-t-butylpyrrole-2-carboxylate | NC1=C(NC(=C1)C(C)(C)C)C(=O)OC | C10H16N2O2
